US07300951B2
To a solution of 2-amino-4,4,4-trifluoro-butan-1-ol (0.161 g, 1.12 mmol) in dry CH2Cl2 (4 mL) at 25° C. under nitrogen was added dropwise Et3N (0.17 mL, 1.23 mmol) followed also by dropwise addition of 5-chlorothiophene-2-sulfonyl chloride (0.243 g, 1.12 mmol) as a solution in dichloromethane (1 mL). The reaction was stirred for 18 h at 25° C. The reaction was then quenched by pouring it into a separatory funnel containing saturated NaHCO3 solution. Additional CH2Cl2 (15 mL) was added. After extraction, the organic layer was washed with 1N HCl solution, distilled water and brine. The organic phase was then dried over MgSO4 and concentrated to a crude solid. After concentration, the crude product was purified by flash chromatography, eluent: hexane: EtOAc, 4:1 to 2:1, to obtain 5-chloro-(3,3,3-trifluoro-1-hydroxymethyl-propyl)-thiophene-2-sulfonamide as a clear oil that crystallized under vacuum (0.191 g, 53%).

reactant | 2-amino-4,4,4-trifluoro-butan-1-ol | 1.12 mmol, 0.161 g | NC(CO)CC(F)(F)F | C4H8F3NO
reactant | Et3N | 1.23 mmol, 0.17 mL | CCN(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-sulfonyl chloride | 1.12 mmol, 0.243 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-chloro-(3,3,3-trifluoro-1-hydroxymethyl-propyl)-thiophene-2-sulfonamide | ClC1=CC(=C(S1)S(=O)(=O)N)C(CC(F)(F)F)CO | C8H9ClF3NO3S2
